data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2491,2766,[CH3:13][NH:14][C:15](=[O:16])[CH-:17][N+:18]([CH3:19])=[C:20]([C:21]([CH3:22])=[O:23])[C:24](=[O:25])[NH:26][CH3:27].[N:1]#[C:2][CH:3]1[C:4]#[C:5][C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[N:1]#[C:2][CH:3]1[C:4]2=[C:5]([C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[CH:17]([C:15]([NH:14][CH3:13])=[O:16])[N:18]([CH3:19])[C:20]2([C:21]([CH3:22])=[O:23])[C:24](=[O:25])[NH:26][CH3:27],water,298.15,21.268269310562555,-51.991125870408496
1430,1572,[CH3:16][O:17][C:18](=[O:19])[C:20]([CH3:21])=[N+:22]([CH3:23])[CH-:24][C:25]#[N:26].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([F:8])([F:9])[F:10])([CH:11]3[CH:12]=[CH:13][CH:14]1[O:15]3)[C:20]([C:18]([O:17][CH3:16])=[O:19])([CH3:21])[N:22]([CH3:23])[CH:24]2[C:25]#[N:26],water,298.15,19.139670839347804,-25.47964630038864
3646,4166,[CH3:10][NH:11][C:12](=[O:13])[c-:14]1[o+:15][n:16][o:17][c:18]1=[O:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]2([C:12]([NH:11][CH3:10])=[O:13])[O:15][N:16]1[O:17][C:18]2=[O:19],water,298.15,19.130804717918107,-12.550827665975984
5080,5768,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[C:14](=[NH+:15][C-:16]([CH3:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:14]([C:12]([CH3:11])=[O:13])([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[NH:15][C:16]2([CH3:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,37.30960404003172,8.286555961990928
3950,4517,[CH3:10][NH:11][C:12](=[O:13])[N-:14][N+:15]([CH3:16])=[N:17][C:18]([CH3:19])=[O:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[N:14]([C:12]([NH:11][CH3:10])=[O:13])[N:15]([CH3:16])[N:17]1[C:18]([CH3:19])=[O:20],water,298.15,30.15457942844965,-11.705756779522195
4066,4657,[CH3:10][O:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[N+:17]([CH3:18])[C-:19]([CH3:20])[CH3:21].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([C:15]#[N:16])[N:17]([CH3:18])[C:19]1([CH3:20])[CH3:21],water,298.15,37.87215662355189,1.484330767408083
496,542,[CH3:13][C:14](=[O:15])[C-:16]([CH3:17])[NH+:18]=[CH:19][C:20]#[N:21].[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:16]([C:14]([CH3:13])=[O:15])([CH3:17])[NH:18][CH:19]3[C:20]#[N:21],water,298.15,12.336442951302896,-41.93213656883013
2373,2635,[CH3:22][CH-:23][N+:24]([CH3:25])=[C:26]([C:27](=[O:28])[NH:29][CH3:30])[C:31](=[O:32])[O:33][CH3:34].[F:1][C:2](=[C:3]([c:4]1[cH:5][cH:6][cH:7][cH:8][cH:9]1)[c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1)[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[F:1][C:2]1([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)([c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)[CH:23]([CH3:22])[N:24]([CH3:25])[C:26]1([C:27](=[O:28])[NH:29][CH3:30])[C:31](=[O:32])[O:33][CH3:34],water,298.15,35.18779216738642,4.8146773774218365
1379,1516,[CH3:13][O:14][C:15](=[O:16])[c:17]1[nH+:18][c-:19]([C:20](=[O:21])[O:22][CH3:23])[c:24](=[O:25])[o:26]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:19]1([C:20](=[O:21])[O:22][CH3:23])[NH:18][C:17]3([C:15]([O:14][CH3:13])=[O:16])[O:26][C:24]1=[O:25],water,298.15,23.38723633403056,-16.433982316647025
2721,3021,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([CH3:13])([C:14]#[N:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][NH:21][C:22](=[O:23])[C-:24]([NH+:25]=[C:26]([C:27]([CH3:28])=[O:29])[C:30]([CH3:31])=[O:32])[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([CH3:13])([C:14]#[N:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[C:26]([C:27]([CH3:28])=[O:29])([C:30]([CH3:31])=[O:32])[NH:25][C:24]2([C:22]([NH:21][CH3:20])=[O:23])[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1,water,298.15,33.16858040350228,-17.07204232892198
3637,4156,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C-:12]([C:13]#[N:14])[NH+:15]=[C:16]([C:17]#[N:18])[C:19]#[N:20]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:12]([CH3:11])([C:13]#[N:14])[NH:15][C:16]2([C:17]#[N:18])[C:19]#[N:20],water,298.15,22.040006498730666,-2.685465834579005
